US05093353
nona-1,8-dien-5-one
To a solution of 16.0 g (158 mmol) of diisopropylamine in 150 ml of tetrahydrofuran at 0° C. was added 158 ml of a 1.0M solution of n-butyllithium in hexane. The reaction mixture was cooled to -30° C., and to it was added a solution of 20.2 g (144 mmol) of the title product of Example 62 in 75 ml of tetrahydrofuran. After 1.0 hour at -30° C., the mixture was cooled to -70° C. To the resulting mixture was then added 26.1 g of allyl bromide in 38 ml of tetrahydrofuran. After 10 minutes, the mixture was permitted to warm to room temperature, and after 2 hours, it was poured into brine. The aqueous layer was further extracted with diethyl ether. After drying the combined extracts over sodium sulfate followed by filtration, the solvent was removed and the residue distilled to give a crude product (8.53 g) which was used without further purification. A solution of 4.14 g of the crude material in 13 ml of tetrahydrofuran was added to a mixture of 2.57 g of diisopropylamine, 25.4 ml of a 1.0M solution of n-butyllithium in hexane, and 25 ml of tetrahydrofuran at -30° C. The resulting mixture was kept for one hour at -30° C., and thereafter 3.0 g of allyl bromide was added. After stirring overnight at room temperature, the mixture was poured into brine, the aqueous layer extracted with diethyl ether, and the combined organic solutions dried over sodium sulfate. After filtration, the solvent was removed, and the residue was then stirred overnight in a mixture of 50 ml of diethyl ether and 50 ml of 3N hydrochloric acid. The mixture was then poured into brine and the aqueous layer was further extracted with diethyl ether. The combined organic extracts were dried over magnesium sulfate, and filtered. The solvents were removed by distillation through a Vigreaux column at atmospheric pressure. Distillation of the residue at 5 mm of pressure gave the title compound (719 mg), suitable for use in the next reaction step.

reactant | diisopropylamine | 158 mmol, 16.0 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | nona-1,8-dien-5-one | 144 mmol, 20.2 g | C=CCCC(CCC=C)=O | C9H14O
